*
* Audio Sockets
*******************************************
*
* StereoJackSocket
*
*                        Barrel
*                        | Tip
*                        | | Tip swiched out when Plug inserted
*                        | | | Tip swiched in when Plug inserted
*                        | | | | Tip Signal In
*                        | | | | | Mid
*                        | | | | | | Mid swiched out when Plug inserted
*                        | | | | | | | Mid swiched in when Plug inserted
*                        | | | | | | | | Mid Signal In
*                        | | | | | | | | | Barrel
*********************************************
.SUBCKT StereoJackSocket 1 2 3 4 5 6 7 8 9 10
R1	 1	10	  0.001
X1   2  3  4  JackSwitch  SET=SET ; for the Tip
X2   2  5     TipSwitch   SET=SET ; Isolates Tip signal
X3   6  7  8  JackSwitch  SET=SET ; for the Mid
X4   6  9     TipSwitch   SET=SET ; Isolates Mid signal

.ENDS StereoJackSocket
*
*******************************************
*
* MonoJackSocket
*
*                       Barrel
*                       | Tip
*                       | | Tip swiched out when Plug inserted
*                       | | | Tip swiched in when Plug inserted
*                       | | | | Tip Signal In
*                       | | | | | Barrel
*******************************************
.SUBCKT MonoJackSocket  1 2 3 4 5 6
r1	 1	6	0.001
X1   2  3   4  JackSwitch  SET=SET
X2   2  5      TipSwitch  SET=SET
.ENDS MonoJackSocket
*
*******************************************
*
* JackSwitch
*                  Tip
*                  | Tip swiched out when Plug inserted
*                  | | Tip swiched in when Plug inserted
*******************************************
.SUBCKT JackSwitch 1 2 3
S1	1	2	7	0	My_switch
S2	1	3	8	0	My_switch
R1  1   0   1G
R2  2   0   1G
R3  2   0   1G
B1  7   0   V=IF({SET}>0.5 & {SET}<1.5, -1, 1)
B2  8   0   V=IF({SET}>0.5 & {SET}<1.5, 1, -1)
.model My_switch SW(Ron=.1 Roff=1e9 Vt=0)
.ends
*
*******************************************
*
* TipSwitch
*                 Tip
*                 | Tip swiched in when Plug inserted
*******************************************
.SUBCKT TipSwitch 1 2
S1	1	2	7	0	My_switch
R1  1   0   1G
R2  2   0   1G
B2  7   0   V=IF({SET}>0.5 & {SET}<1.5, 1, -1)
.model My_switch SW(Ron=.1 Roff=1e9 Vt=0)
.ends
*
*******************************************
