**********************************************************************
* This is the potentiometers file
*
* Contains the primatives for Linear, Logrithmic type A,
* Anti-logrithmic type A, Logrithmic type B and Anti-logrithmic type B
* potentiometers.
*
* linear potentiometer
*      _____
*  1--|_____|--2|
*        |
*        3
*
.SUBCKT Linear 1 2 3
.param w=limit(w,0.01m,0.99)
R0 1 3 {0.1+(R*(1-w))}
R1 3 2 {0.1+(R*(w))}
.ENDS
*
* Type A Logrithmic potentiometers split 90%:10% at the mid point
*
* This is the Logrithmic type A Potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT LogA 1 2 3
.param w=limit(w,0.01m,0.99999)
.param Ra = 0.1+IF({w}==0.5, (0.9*R), IF({w}>0.5,(0.9*R)*(1-((w-0.5)*2)),(0.9*R)+(0.1*R*(2*w))) )
.param Rb = 0.1+IF({w}==0.5, (0.1*R), IF({w}>0.5,(0.1*R)+((w-0.5)*2)*(0.9*R),(0.1*R)*(w*2) )
R13 1 3 {Ra}
R32 3 2 {Rb}
.ENDS
*
* Type A Anti-logrithmic potentiometers split 10%:90% at the mid point
*
* This is the Anti-logrithmic type A Potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT AntilogA 1 2 3
.param w=1-limit(w,0.01m,0.99999)
.param Ra = 0.1+IF({w}==0.5, (0.9*R), IF({w}>0.5,(0.9*R)*(1-((w-0.5)*2)),(0.9*R)+(0.1*R*(2*w))) )
.param Rb = 0.1+IF({w}==0.5, (0.1*R), IF({w}>0.5,(0.1*R)+((w-0.5)*2)*(0.9*R),(0.1*R)*(w*2) )
R13 1 3 {Rb}
R32 3 2 {Ra}
.ENDS
*
* Type B logrithmic potentiometers split 70%:30% at the mid point
*
* This is the Logrithmic type B Potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT LogB 1 2 3
.param w=limit(w,0.01m,0.99999)
.param Ra = 0.1+IF({w}==0.5, (0.7*R), IF({w}>0.5,(0.7*R)*(1-((w-0.5)*2)),(0.7*R)+(0.3*R*(2*w))) )
.param Rb = 0.1+IF({w}==0.5, (0.3*R), IF({w}>0.5,(0.3*R)+((w-0.5)*2)*(0.7*R),(0.3*R)*(w*2) )
R13 1 3 {Ra}
R32 3 2 {Rb}
.ENDS
*
* Type B Anti-logrithmic potentiometers split 30%:70% at the mid point
*
* This is the Anti-logrithmic type B Potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT AntilogB 1 2 3
.param w=1-limit(w,0.01m,0.99999)
.param Ra = 0.1+IF({w}==0.5, (0.7*R), IF({w}>0.5,(0.7*R)*(1-((w-0.5)*2)),(0.7*R)+(0.3*R*(2*w))) )
.param Rb = 0.1+IF({w}==0.5, (0.3*R), IF({w}>0.5,(0.3*R)+((w-0.5)*2)*(0.7*R),(0.3*R)*(w*2) )
R13 1 3 {Rb}
R32 3 2 {Ra}
.ENDS
